US07446117B2
2-[4-(methylthio)phenyl]-4-(trifluoromethyl)-pyridine
To a mixture of 2-chloro-4-(trifluoromethyl)pyridine (19.9 g, 0.11 mol), 4-(methylthio)phenylboronic acid (21.9 g, 0.13 mol), 1M aqueous sodium carbonate (180 mL) and 1,2-dimethoxyethane (270 mL) under an atmosphere of nitrogen was added palladium tetrakistriphenylphosphine (3.78 g, 3.3 mmol) and the reaction heated at 100° C. for 14 hours. After cooling and concentration in vacuo, the residue was partitioned between ethyl acetate (350 mL) and water (400 mL) and separated. The aqueous layer was further extracted with ethyl acetate (2×150 mL) and the combined organic layers were dried over sodium sulfate and concentrated in vacuo. Filtration through a pad of silica gel (200 g) eluting with a gradient of ethyl acetate in cyclohexane gave the title compound (29.4 g) LC retention time 3.62 mins, MS m/z 269 (MH+).

reactant | 2-chloro-4-(trifluoromethyl)pyridine | 0.11 mol, 19.9 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | 4-(methylthio)phenylboronic acid | 0.13 mol, 21.9 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | sodium carbonate | 1M, 180 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 270 mL | COCCOC | C4H10O2
product | 2-[4-(methylthio)phenyl]-4-(trifluoromethyl)-pyridine | 29.4 g | CSC1=CC=C(C=C1)C1=NC=CC(=C1)C(F)(F)F | C13H10F3NS
